US08022062B2
7-Chloro-6-(pyridin-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Using a method similar to the General Procedure 7, react 3-tert-butoxycarbonyl-7-chloro-6-dimethylaminocarbonylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine (8 g, 20.8 mmol) with 2-picolyl chloride hydrochloride (3.41 g, 20.8 mmol). Dilute the reaction mixture with diethyl ether and filter the precipitate. Concentrate the filtrate in vacuo, dissolve the residue in diethyl ether (100 mL) and add 1N aqueous HCl (100 mL). Stir the mixture for 16 h at ambient temperature. Separate, wash the aqueous layer with diethyl ether, adjust the pH of the aqueous layer to 12 with sodium hydroxide and extract with diethyl ether. Dry over Na2SO4 and concentrate in vacuo to give the free base of the title compound. Use the General Procedure 2-2 to give the title compound as a white solid (4.91 g, 78%). MS (ES+) m/z: 305 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylaminocarbonylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 20.8 mmol, 8 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(=O)N(C)C | C18H25ClN2O3S
reactant | 2-picolyl chloride hydrochloride | 20.8 mmol, 3.41 g | Cl.N1=C(C=CC=C1)CCl
solvent | diethyl ether | C(C)OCC | C4H10O
product | 7-Chloro-6-(pyridin-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=NC=CC=C1 | InChI=1S/C16H17ClN2S.ClH/c17-15-5-4-12-6-9-18-10-7-14(12)16(15)20-11-13-3-1-2-8-19-13;/h1-5,8,18H,6-7,9-11H2;1H
